US04168269
9,10-Dihydro-4-ethyl-9-methyl-4H-thieno [3,4-b][1,5]benzodiazepine
A 150 ml. portion of 1M-borane in tetrahydrofuran is added with stirring and cooling to a solution of 5.1 g. of 4-acetyl-4,9-dihydro-9-methyl-10H-thieno[3,4-b][1,5]-benzodiazepin-10-one in 200 ml. of tetrahydrofuran. The reaction mixture is heated under reflux for 20 hours, cooled in an ice bath and 52 ml. of 6N hydrochloric acid is added dropwise with stirring. The tetrahydrofuran is removed by distillation. A 40 g. portion of sodium hydroxide pellets is carefully added in the cold with stirring followed by 25 ml. of water. The mixture is extracted with three 150 ml. portions of benzene. The benzene extracts are combined, washed with water, dried over sodium sulfate, filtered and concentrated to dryness. The residue is extracted three times with boiling hexane. The combined hexane extracts are cooled and the solid is collected, washed with hexane and ether and dried. A second crop is recovered from the hexane filtrate and combined with the first crop. The solid is dissolved in 25 ml. of methylene chloride, filtered and the solvent is evaporated almost to dryness. A 50 ml. portion of hexane is added. The solid is collected, washed with hexane and dried, giving the desired product as white crystals, mp. 135°-137° C.

reactant | borane | B | BH3
reactant | 4-acetyl-4,9-dihydro-9-methyl-10H-thieno[3,4-b][1,5]-benzodiazepin-10-one | C(C)(=O)N1C=2C(C(N(C3=C1C=CC=C3)C)=O)=CSC2 | C14H12N2O2S
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 9,10-Dihydro-4-ethyl-9-methyl-4H-thieno [3,4-b][1,5]benzodiazepine | C(C)N1C=2C(CN(C3=C1C=CC=C3)C)=CSC2 | C14H16N2S
